US04558155
N-[2-(2,5-Dichlorophenoxy)ethyl]-1-methylethanamine Hydrochloride
Following the procedure of Preparation 11, 2-bromoethyl-2,5-dichlorophenyl ether and isopropyl amine (excess) were reacted and the reaction mixture processed to give an oil, the free base of the title compound. A portion of the oil was reacted with ethereal hydrogen chloride to give the hydrochloride salt, m.p. 152°-155° C. in 63.3% yield.

reactant | 2-bromoethyl-2,5-dichlorophenyl ether | BrCCC=1C(=C(C=C(C1)Cl)OC1=C(C(=CC(=C1)Cl)CCBr)Cl)Cl | C16H12Br2Cl4O
reactant | isopropyl amine | C(C)(C)N | C3H9N
product | N-[2-(2,5-Dichlorophenoxy)ethyl]-1-methylethanamine Hydrochloride | Cl.ClC1=C(OCCNC(C)C)C=C(C=C1)Cl | InChI=1S/C11H15Cl2NO.ClH/c1-8(2)14-5-6-15-11-7-9(12)3-4-10(11)13;/h3-4,7-8,14H,5-6H2,1-2H3;1H
